US07601726B2
To 6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-3-ylamine (60 mg, 0.228 mmol) in 2 mL dioxane was added ethanesulfonyl chloride (22.0 uL, 0.228 mmol) and pyridine (18.5 uL, 0.228 mmol). The reaction mixture was heated to reflux with stirring for two hours, then cooled and chromatographed through silica (0%-40% EtOAc in hexanes) to give 31 mg of ethanesulfonic acid [6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-amide, MP=226.0-226.9° C., MS(M+H)=356.

reactant | 6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-3-ylamine | 0.228 mmol, 60 mg | FC1=C(OC2=NC=C3C(=N2)NN=C3N)C=CC(=C1)F | C11H7F2N5O
reactant | ethanesulfonyl chloride | 0.228 mmol, 22.0 uL | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | pyridine | 0.228 mmol, 18.5 uL | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | ethanesulfonic acid [6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-amide | 31 mg | FC1=C(OC2=NC=C3C(=N2)NN=C3NS(=O)(=O)CC)C=CC(=C1)F | C13H11F2N5O3S
